US20010053785A1
(2R)-2-[4′-(2-Benzyl-benzo[b]-thiophen-3-yl)-3,5-dibromo-biphenyl-4-yloxy]-4-(1,3,-dioxo-1,3-dihydro-isoindol-2-yl)-butyric acid
Trimethylsilyl iodide (0.29 mL, 2.07 mmol) was added into a mixture of (2R)-2-[4′-(2-benzyl-benzo[b]-thiophen-3-yl)-3,5-dibromo-biphenyl-4-yloxy]-4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butyric acid methyl ester (1.1 g, 1.38 mmol), and methylene chloride (10 mL). The reaction mixture was stirred at 50° C. for 24 hours. An additional 0.29 mL of trimethylsilyl iodide was added and the mixture was stirred for 48 hours, poured into water and extracted with ethyl acetate. The organic extracts were washed with aqueous sodium bisulfite and dried over MgSO4. Evaporation and purification by flash chromatography on silica gel (hexanes/EtAOc 2:1) gave white solid (0.92 g, 94% yield): mp 113-115° C.; MS m/e 778 (M−H)+;

reactant | Trimethylsilyl iodide | 2.07 mmol, 0.29 mL | C[Si](C)(C)I | C3H9ISi
reactant | (2R)-2-[4′-(2-benzyl-benzo[b]-thiophen-3-yl)-3,5-dibromo-biphenyl-4-yloxy]-4-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-butyric acid methyl ester | 1.38 mmol, 1.1 g | COC([C@@H](CCN1C(C2=CC=CC=C2C1=O)=O)OC1=C(C=C(C=C1Br)C1=CC=C(C=C1)C=1C2=C(SC1CC1=CC=CC=C1)C=CC=C2)Br)=O | C40H29Br2NO5S
reactant | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
reactant | trimethylsilyl iodide | 0.29 mL | C[Si](C)(C)I | C3H9ISi
solvent | water | O | H2O
product | (2R)-2-[4′-(2-Benzyl-benzo[b]-thiophen-3-yl)-3,5-dibromo-biphenyl-4-yloxy]-4-(1,3,-dioxo-1,3-dihydro-isoindol-2-yl)-butyric acid | 0.92 g, 94% yield | C(C1=CC=CC=C1)C1=C(C2=C(S1)C=CC=C2)C2=CC=C(C=C2)C2=CC(=C(C(=C2)Br)O[C@@H](C(=O)O)CCN2C(C1=CC=CC=C1C2=O)=O)Br | C39H27Br2NO5S
